US04785113
Preparation of 4-chloro-2,3,5-trimethylpyridine N-oxide (XII)
11.3 g (72.8 mmol) 4-chloro-2,3,5-trimethylpyridine was dissolved in 50 ml acetic acid and heated to 60° C. and 6.2 ml (50% H2O2) was added slowly and the temperature maintained for several hours and finally increased to 90° for two hours. The solvent was evaporated and extracted from alkaline water with diethyl ether to remove unreacted starting material. The water phase was saturated with sodium chloride and extracted several times with methylene chloride. The methylene chloride was dried and evaporated to give 10.1 g of product. Yield 83%. M.p. 147°-148° C.

reactant | 4-chloro-2,3,5-trimethylpyridine | 72.8 mmol, 11.3 g | ClC1=C(C(=NC=C1C)C)C | C8H10ClN
reactant | H2O2 | OO | H2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-2,3,5-trimethylpyridine N-oxide | 10.1 g, Yield 83% | ClC1=C(C(=[N+](C=C1C)[O-])C)C | C8H10ClNO
